US08912365B2
A stirred autoclave was charged, at room temperature, with 55.2 g (600 mmol) of glycerol, 51.6 g (30 mmol) of methyl pelargonate, 0.039 g (10 wt %) of camphosulfonic acid and 0.64 g (1 mol %) of Pd/C at 5%. The autoclave was then pressurized at 10 bar of dihydrogen gas H2, and then it was heated at 145° C. for 24 h, stirring vigorously. After 24 h of reaction, the reaction mixture was brought back to room temperature. The catalyst was then filtered on a MILLIPORE® filter (a membrane filter) (0.45 μm) and was rinsed with absolute ethanol. The solvents were then evaporated and the organic products were extracted from the glycerol phase by extraction with CH2Cl2 (3×50 ml). The organic phase was washed with water (2×20 ml) and the CH2Cl2 was then evaporated at reduced pressure. 1-O-nonyl-glycerol ether was obtained by purification on a flash silica column with ethyl acetate/cyclohexane mixture 1/4 to 1/1 as eluent with an isolated yield of 20%.

reactant | glycerol | 600 mmol, 55.2 g | OCC(O)CO | C3H8O3
reactant | methyl pelargonate | 30 mmol, 51.6 g | C(CCCCCCCC)(=O)OC | C10H20O2
catalyst | Pd/C | 0.64 g | [Pd] | Pd
product | 1-O-nonyl-glycerol ether | yield of 20% | C(CCCCCCCC)OCC(O)CO.CCOCC | InChI=1S/C12H26O3.C4H10O/c1-2-3-4-5-6-7-8-9-15-11-12(14)10-13;1-3-5-4-2/h12-14H,2-11H2,1H3;3-4H2,1-2H3
